US07662849B2
3-tert-Butoxycarbonylamino-2-hydroxy-pentanoic acid (500 mg, 2.14 mmol) was combined with EDC (600 mg, 3.14 mmol), HOBt (600 mg, 3.92 mmol), and N-hydroxy-benzamidine (292 mg, 2.14 mmol). Dichloromethane (10 mL) was added and then 4-methylmorpholine (1 mL). The reaction mixture was stirred at ambient temperature for 16 h. After dilution with ethyl acetate (200 mL), the solution was washed with water (30 mL), saturated aqueous NaHCO3 solution and brine, dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in pyridine (10 mL) and heated at 80° C. for 15 h. The pyridine was evaporated under vacuum and the residue was purified by flash chromatography on silica gel (eluent:ethyl acetate) to yield 2(S)-tert-butoxycarbonylamino-1-(3-phenyl-[1.2.4]oxadiazol-5-yl)butan-1-ol (290 mg, 0.83 mmol). 2(S)-tert-butoxycarbonylamino-1-(3-phenyl-[1.2.4]oxadiazol-5-yl)butan-1-ol (145 mg, 0.41 mmol) was dissolved in CH2Cl2 (4 mL) and TFA (4 mL) was added. After stirring for 1 h, the reaction mixture was evaporated to dryness to yield 2(S)-amino-1-(3-phenyl-[1.2.4]oxadiazol-5-yl)-butan-1-ol.

reactant | 3-tert-Butoxycarbonylamino-2-hydroxy-pentanoic acid | 2.14 mmol, 500 mg | C(C)(C)(C)OC(=O)NC(C(C(=O)O)O)CC | C10H19NO5
reactant | EDC | 3.14 mmol, 600 mg
reactant | HOBt | 3.92 mmol, 600 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-hydroxy-benzamidine | 2.14 mmol, 292 mg | ONC(C1=CC=CC=C1)=N | C7H8N2O
reactant | 4-methylmorpholine | 1 mL | CN1CCOCC1 | C5H11NO
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2(S)-tert-butoxycarbonylamino-1-(3-phenyl-[1.2.4]oxadiazol-5-yl)butan-1-ol | 0.83 mmol, 290 mg | C(C)(C)(C)OC(=O)N[C@H](C(O)C1=NC(=NO1)C1=CC=CC=C1)CC | C17H23N3O4
